US06440995B1
2-[2-(4-Methoxy-phenyl)-7-methyl-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 233-238° C. and MS: m/e=309.2 (M+H+), was prepared from 4-chloro-2-(4-methoxy-phenyl)-7-methyl-quinoline and ethanolamine.

reactant | 4-chloro-2-(4-methoxy-phenyl)-7-methyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)C)C1=CC=C(C=C1)OC | C17H14ClNO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(4-Methoxy-phenyl)-7-methyl-quinolin-4-ylamino]-ethanol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=C1)NCCO)C | InChI=1S/C19H20N2O2.ClH/c1-13-3-8-16-18(20-9-10-22)12-17(21-19(16)11-13)14-4-6-15(23-2)7-5-14;/h3-8,11-12,22H,9-10H2,1-2H3,(H,20,21);1H
